US05565449
To a mechanically stirred solution of 5-iodo-N-methylanthranilic acid (40 grams 0.144 mol), potassium carbonate (19.95 grams, 0.144 mol), and 500 ml water at 0° C. was added phosgene (1.93M solution in toluene, 0.2 mol, 104 mL) over a period of 1 hr. the resulting slurry was stirred for an additional 3 hrs and the solids isolated by filtration, washing with water, and a small amount (70 mL) of ether. The solids were dried overnight in vacuo to yield 34 grams (78%) of 5-iodo-N-methylisatoic anhydride. 1H NMR (DMSO-d6) 8.18 (1H, bs, C6-H), 8.08 (1H, bd, 3JHH =8 Hz, C4-H), 7.12 (1H, d, 3JHH =8 Hz, C3-H), 3.42 (3H, s, NCH3).

reactant | 5-iodo-N-methylanthranilic acid | 0.144 mol, 40 grams | IC1=CC=C(C(C(=O)O)=C1)NC | C8H8INO2
reactant | potassium carbonate | 0.144 mol, 19.95 grams | C([O-])([O-])=O.[K+].[K+]
reactant | phosgene | 0.2 mol, 1.93M, 104 mL | C(=O)(Cl)Cl | CCl2O
solvent | water | 500 ml | O | H2O
product | 5-iodo-N-methylisatoic anhydride | 34 grams, 78% | IC1=CC=C2C(C(=O)OC(N2C)=O)=C1 | C9H6INO3
